US04119727
A solution of 23.6 mm of the sodium salt of ethyl thioglycolate in 100 ml of ethanol was added over 5 minutes at 30° C. to a a mixture of 4 g of ethyl dichloroacrylate in 50 ml of ethanol and the mixture was stirred at 25°-30° C. for 15 minutes and was then returned to room temperature. A mixture of 3.22 g of sodium ethylate in 75 ml of ethanol was added thereto and the mixture was stirred for 18 hours. The mixture was concentrated and poured into water and the mixture was extracted with ether. The aqueous phase was acidified with hydrochloric acid and was extracted with ether. The ether phase was evaporated to dryness and the 4.2 g of residue was chromatographed over silica gel. Elution with benzene yielded 1.75 g of 2-ethoxycarbonyl-3-hydroxy-5-chloro-thiophene with Rf = 0.4-0.5.

reactant | sodium | [Na] | Na
reactant | ethyl thioglycolate | C(CS)(=O)OCC | C4H8O2S
reactant | ethyl dichloroacrylate | 4 g | ClC(=CC(=O)OCC)Cl | C5H6Cl2O2
reactant | sodium ethylate | 3.22 g | CC[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-ethoxycarbonyl-3-hydroxy-5-chloro-thiophene | 1.75 g | C(C)OC(=O)C=1SC(=CC1O)Cl | C7H7ClO3S
